US05344843
A solution of 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester (0.471 g) in dimethylformamide (10 mL) was treated with 55% sodium hydride (0.117 g), stirred for 15 minutes and then a solution of with 1-[4-(3-bromopropoxy)-2-methoxy-3propylphenyl]ethanone (0.8 g) in dimethylformamide (5 mL) was added. The mixture was heated at 50° C. for 17 hours and worked up as in Example 20. The residual oil was purified by HPLC (ethyl acetate-hexane; 1:4), followed by flash chromatography over silica gel (ethyl acetate-toluene; 1:19) to yield 0.4 g of 4-[3-[4-acetyl-3-methoxy-2-propylphenoxy)propoxy]-alpha-oxobenzeneacetic acid ethyl ester as an oil.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester | 0.471 g | C(C)OC(C(C1=CC=C(C=C1)O)=O)=O | C10H10O4
reactant | sodium hydride | 0.117 g | [H-].[Na+]
reactant | 1-[4-(3-bromopropoxy)-2-methoxy-3propylphenyl]ethanone | 0.8 g | BrCCCOC1=C(C(=C(C=C1)C(C)=O)OC)CCC | C15H21BrO3
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[3-[4-acetyl-3-methoxy-2-propylphenoxy)propoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.4 g | C(C)OC(C(C1=CC=C(C=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)OC)CCC)=O)=O | C25H30O7
